US07534894B2
A mixture of (4′-nitro-biphenyl-4-yloxy)-acetic acid methyl ester (2.26 g, 7.86 mmol), prepared in the previous step, and 10% palladium on carbon in methanol was hydrogenated under a hydrogen atmosphere at room temperature. The reaction was filtered and the filtrate concentrated under reduced pressure. Purification of the residue on silica gel using 20% ethyl acetate hexanes as the eluent gave (4′-amino-biphenyl-4-yloxy)-acetic acid methyl ester (700 mg. 31%).

reactant | (4′-nitro-biphenyl-4-yloxy)-acetic acid methyl ester | 7.86 mmol, 2.26 g | COC(COC1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C15H13NO5
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | (4′-amino-biphenyl-4-yloxy)-acetic acid methyl ester | 700 mg, 31% | COC(COC1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C15H15NO3
